US05688798
A solution of 0.077 g (0.00025 mol) of (E)-2-methyl-5-(4-styryl-3,6-dihydro-2H-pyridin-1-ylmethyl)-pyrimidin-4-ylamine in 30 ml of methanol/dichloromethane 1:1 was treated with 0.07 ml (0.00026 mol) of 3.5N ethanolic hydrochloric acid. The solution was completely freed from the solvents and recrystallized from ethanol/diethyl ether. 0.046 g (54%) of (E)-2-methyl-5-(4-styryl-3,6-dihydro-2H-pyridin-1-ylmethyl)-pyrimidin-4-ylamine hydrochloride (1:1.2) was obtained as yellowish crystals; m.p. 185°-192°.

reactant | (E)-2-methyl-5-(4-styryl-3,6-dihydro-2H-pyridin-1-ylmethyl)-pyrimidin-4-ylamine | 0.00025 mol, 0.077 g | CC1=NC=C(C(=N1)N)CN1CCC(=CC1)\C=C\C1=CC=CC=C1 | C19H22N4
reactant | hydrochloric acid | 0.00026 mol, 3.5N, 0.07 ml | Cl | ClH
solvent | methanol dichloromethane | 30 ml | CO.ClCCl
product | (E)-2-methyl-5-(4-styryl-3,6-dihydro-2H-pyridin-1-ylmethyl)-pyrimidin-4-ylamine hydrochloride | 0.046 g, 54% | Cl.CC1=NC=C(C(=N1)N)CN1CCC(=CC1)\C=C\C1=CC=CC=C1 | InChI=1S/C19H22N4.ClH/c1-15-21-13-18(19(20)22-15)14-23-11-9-17(10-12-23)8-7-16-5-3-2-4-6-16;/h2-9,13H,10-12,14H2,1H3,(H2,20,21,22);1H/b8-7+;
